US07842324B2
To a solution of 2-(2-fluorobiphenyl-4-yl)propanoic acid (Aldrich) (172.3 mg), HOBt (133.2 mg, 1.4 eq) and triethylamine (196.5 mL, 2 eq) in dichoromethane (7 mL) was added at room temparature EDC (270.4 mg, 2.0 eq). The reaction was stired at room temperature for 30 minutes and 2-methylpropan-1-amine (0.1 mL, 1.5 eq) was added. The solution was stirred overnight then diluted with dichlorometahne and washed successively with aqueous NaHCO3, water, aqoueous HCL (1N), water, dried over MGSO4, filtered and evaporated. Chromatogarphy on silica gel (eluent:ethyl acetate/hexane 1:1) afforded 170 mg of 2-(2-fluorobiphenyl-4-yl)-N-isobutylpropanamide. Yield: 80%. 1H NMR (500 MHz, CDCl3): δ 0.83-0.79 (d, 6H), 1.55-1.56 (d, 3H), 1.69-1.74 (m, 1H), 3.04-3.07 (m, 2H), 3.56-3.58 (m, 1H), 5.4 (s br, 1H), 7.11-7.16 (m, 2H), 7.37-7.46 (m, 4H), 7.53-7.55 (m, 2H).

reactant | 2-(2-fluorobiphenyl-4-yl)propanoic acid | 172.3 mg | FC1=C(C=CC(=C1)C(C(=O)O)C)C1=CC=CC=C1 | C15H13FO2
reactant | HOBt | 133.2 mg, 1.4 eq | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | triethylamine | 196.5 mL, 2 eq | C(C)N(CC)CC | C6H15N
reactant | EDC | 270.4 mg, 2.0 eq
reactant | 2-methylpropan-1-amine | 0.1 mL, 1.5 eq | CC(CN)C | C4H11N
solvent | dichoromethane | 7 mL | ClCCl | CH2Cl2
product | 2-(2-fluorobiphenyl-4-yl)-N-isobutylpropanamide | 170 mg, Yield: 80% | FC1=C(C=CC(=C1)C(C(=O)NCC(C)C)C)C1=CC=CC=C1 | C19H22FNO
